US06277546B1
m-Hydroxybenzaldehyde (819 mmol, 100.0 g) was placed in a 5 L 3-necked round bottom flask equipped with a mechanical stirrer and an argon gas inlet, to which was added THF (4.5 L). Potassium t-butoxide (834 mmol, 93.7 g) was slowly added to the solution over 3 min. After 15 min, di-t-butyl dicarbonate (834 mmol, 182.3 g) was added over 15 min. After 2.5 hr at room temperature the reaction mixture was poured into 4 L of water and the product was extracted with 2 L of a mixture of hexanes and ether (1:1). The organic layers were combined, washed with saturated NaCl (2 L), saturated NaHCO3 (1 L), and H2O (2 L), and dried over MgSO4 (ca. 100 g). The organic phase was filtered and condensed to give m-(t-butoxycarbonyloxy)benzaldehyde (792 mmol, 176 g) in 97% crude yield. Methyl(triphenyl)phosphonium bromide (848 mmol, 303 g) was placed in a 2 L 3-necked round bottom flask containing 1.5 L of THF. The mixture was cooled to 0° C. under nitrogen and potassium t-butoxide (830 mmol, 93.1 g) was added slowly to the mixture over 10 min. m-(t-Butoxycarbonyloxy)benzaldehyde (792 mmol, 176 g) was added and the mixture was stirred for another 6 h, upon which the solvent was removed on a rotary evaporator and hexanes (1.5 L) added. The mixture was stirred for 2 h and filtered through a small bed of silica. The hexane layer was concentrated to give 120 g of the crude product. Purification by column chromatography gave 85 g of pure m-(t-butoxycarbonyloxy)styrene (47% yield based on m-hydroxybenzaldehyde).

reactant | potassium t-butoxide | 830 mmol, 93.1 g | CC(C)([O-])C.[K+]
reactant | m-(t-Butoxycarbonyloxy)benzaldehyde | 792 mmol, 176 g | C(C)(C)(C)OC(=O)OC=1C=C(C=O)C=CC1 | C12H14O4
catalyst | Methyl(triphenyl)phosphonium bromide | 848 mmol, 303 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 1.5 L | C1CCOC1 | C4H8O
product | m-(t-butoxycarbonyloxy)styrene | 85 g, 47% yield | C(C)(C)(C)OC(=O)OC=1C=C(C=C)C=CC1 | C13H16O3
